US09120766B2
A 100 mL reactor vessel was charged with solid pterostilbene (7.2 g; 28.1 mmol) and caffeine (5.457 g, 28.1 mmol), and 80 ml of water: isopropanol 60:40 solvent mixture. The pterostilbene concentration was 90 mg/mL. The system was heated from 30 to 70° C. for 20 minutes or with heating rate 2° C./min, held at 70° C. for 10 minutes, and then cooled from 70° C. to 5° C. with cooling rate 0.2° C./min. The resulting suspension was stirred at 5° C. for 18 hours. After the discharge of the suspension, the reactor was washed twice with one volume wet cake (2×19 mL) of chilled water: isopropanol 60:40 solvent mixture. The suspension was filtered to dry land using a Buchner funnel and a filter paper and washed with the washings from the reactor also to dry land. The final wash of the filter cake was performed using one cake of wash solvent system (chilled water: isopropanol 60:40) and filtered to completion. The solid was vacuum dried at 40° C. yielding 9.202 g of pterostilbene: caffeine 1:1 cocrystal, Form I (73% yield). A micrograph of the pterostilbene:caffeine cocrystal thus formed is illustrated in FIG. 9.

reactant | pterostilbene | 28.1 mmol, 7.2 g | COC1=CC(=CC(=C1)OC)/C=C/C=2C=CC(=CC2)O | C16H16O3
reactant | caffeine | 28.1 mmol, 5.457 g | N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | C8H10N4O2
solvent | water isopropanol | 80 ml | O.C(C)(C)O
product | pterostilbene caffeine | 9.202 g, 73% yield | COC1=CC(=CC(=C1)OC)/C=C/C=2C=CC(=CC2)O.N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | InChI=1S/C16H16O3.C8H10N4O2/c1-18-15-9-13(10-16(11-15)19-2)4-3-12-5-7-14(17)8-6-12;1-10-4-9-6-5(10)7(13)12(3)8(14)11(6)2/h3-11,17H,1-2H3;4H,1-3H3/b4-3+;
